US08912181B2
A suspension of compound (114a) (0.57 g), 3-quinolineboronic acid (0.45 g), Pd2dba3 (0.031 g), X-Phos (0.064 g), and potassium phosphate (1.4 g) in butanol was stirred at 100° C. for 15 hours in a nitrogen atmosphere. After cooling, the reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was then purified by neutral silica gel column chromatography (chloroform/methanol) to obtain 8-(quinolin-3-yl)-2-(trifluoromethyl)quinazolin-4(1H)-one (0.49 g) as a white solid. Phosphorus oxychloride (5 ml) was added to the obtained 8-(quinolin-3-yl)-2-(trifluoromethyl)quinazolin-4(1H)-one (0.49 g), and the mixture was heated to reflux for 13 hours. The solvent was distilled off under reduced pressure, and ethyl acetate was added to the residue. The reaction solution was neutralized with an aqueous sodium bicarbonate solution with cooling in an ice bath and partitioned into organic and aqueous layers. The organic layer was washed with brine. The organic layer thus washed was dried over anhydrous sodium sulfate. Then, the solvent was distilled off, and the residue was purified by neutral silica gel column chromatography (chloroform/methanol) to obtain 4-chloro-8-(quinolin-3-yl)-2-(trifluoromethyl)quinazoline (0.43 g) as a white solid. Compound (114) was obtained as a yellow solid (yield based on 4 steps: 25%) according to Example 1(5) using the obtained 4-chloro-8-(quinolin-3-yl)-2-(trifluoromethyl)quinazoline instead of compound (1d) and 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester instead of 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester.

reactant | Phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-(quinolin-3-yl)-2-(trifluoromethyl)quinazolin-4(1H)-one | 0.49 g | N1=CC(=CC2=CC=CC=C12)C=1C=CC=C2C(N=C(NC12)C(F)(F)F)=O | C18H10F3N3O
product | 4-chloro-8-(quinolin-3-yl)-2-(trifluoromethyl)quinazoline | 0.43 g | ClC1=NC(=NC2=C(C=CC=C12)C=1C=NC2=CC=CC=C2C1)C(F)(F)F | C18H9ClF3N3
